US07419997B2
N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1H-imidazole-4-carboxamide was prepared from 4-imidazole carboxylic acid and 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine in a similar manner as described above to give a white solid (4% yield). 1H-NMR (CDCl3): δ 9.19 (s, 1H), 7.62 (s, 1H), 7.57 (s, 1H), 7.41 (s, 1H), 7.37 (d, 1H), 7.17 (d, 1H), 7.05 (dd, 1H), 6.60 (d, 1H), 5.25 (m, 1H), 2.62 (m, 2H), 2.21 (m, 1H), 1.91 (m, 3H); MS m/z 313 (M−1).

reactant | 4-imidazole carboxylic acid | N1C=NC(=C1)C(=O)O | C4H4N2O2
reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
product | N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1H-imidazole-4-carboxamide | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)C=1N=CNC1 | C16H15ClN4O
